US06288120B1
(4-{2-[(4-Butyl-benzyl)-methanesulfonyl-amino]-ethyl}-phenyl)-acetic acid methyl ester
A mixture of [4-[2-methanesulfonylamino-ethyl]-phenyl]-acetic acid methyl ester (38 mg, 0.14 mmol), 1-bromomethyl-4-butylbenzene (35 mg, 0.15 mmol), K2CO3 (25 mg, 0.182 mmol) and acetonitrile was heated at reflux for 1 h. Aqueous HCl (2 mL, 1N) and EtOAc (30 mL) were added to the reaction. The organic solution was dried with MgSO4, filtered, and concentrated in vacuo. The product was purified by flash chromatography (30% EtOAc/hexanes) to afford the title compound of Step A. 1H NMR (400 MHz, CDCl3) δ 7.28-7.05 (m, 8H), 4.37 (s, 2H), 3.65 (s, 3H), 3.58 (s, 2H), 3.26 (t, 2H), 2.77 (t, 2H), 2.69 (s, 3H), 2.60 (t, 2H), 1.59 (m, 2H), 1.37 (m, 2H), 0.94 (t, 3H).

reactant | [4-[2-methanesulfonylamino-ethyl]-phenyl]-acetic acid methyl ester | 0.14 mmol, 38 mg | COC(CC1=CC=C(C=C1)CCNS(=O)(=O)C)=O | C12H17NO4S
reactant | 1-bromomethyl-4-butylbenzene | 0.15 mmol, 35 mg | BrCC1=CC=C(C=C1)CCCC | C11H15Br
reactant | K2CO3 | 0.182 mmol, 25 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | (4-{2-[(4-Butyl-benzyl)-methanesulfonyl-amino]-ethyl}-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)CCN(S(=O)(=O)C)CC1=CC=C(C=C1)CCCC)=O | C23H31NO4S
